US08981104B2
4-(Chloromethyl)-N-(2-hydroxy-5-methylphenyl)benzamide
With stirring, 37.52 g (446.6 mmol) of sodium bicarbonate were added to 50 g (406 mmol) of 2-amino-4-methylphenol in 250 ml of 2-methoxyethanol. 84.4 g (446.6 mmol) of 4-chloromethylbenzoyl chloride, dissolved in 250 ml of 2-methoxyethanol, were then added dropwise to the solution over 15 min. During this time, an increase in reaction temperature of from room temperature to 40° C. was observed. After 4 hours of stirring, 1 liter of water and 10 ml of concentrated hydrochloric acid were added to the reaction mixture. The crystals formed were filtered off and dried under reduced pressure. This gave 116 g of the target compound which were reacted further without further purification.

reactant | sodium bicarbonate | 446.6 mmol, 37.52 g | C([O-])(O)=O.[Na+]
reactant | 2-amino-4-methylphenol | 406 mmol, 50 g | NC1=C(C=CC(=C1)C)O | C7H9NO
reactant | 4-chloromethylbenzoyl chloride | 446.6 mmol, 84.4 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | 2-methoxyethanol | 250 ml | COCCO | C3H8O2
solvent | 2-methoxyethanol | 250 ml | COCCO | C3H8O2
solvent | water | 1 liter | O | H2O
product | 4-(Chloromethyl)-N-(2-hydroxy-5-methylphenyl)benzamide | ClCC1=CC=C(C(=O)NC2=C(C=CC(=C2)C)O)C=C1 | C15H14ClNO2
